US04076705
Using 1-methyl-2-aminomethyl-3-o-chlorophenyl-5-chloroindole hydrochloride and N-carbobenzoxy-glycine, the reaction is effected as in Example 12 (1), whereby 1-methyl-2-(N-carbobenzoxy-glycylaminomethyl)-3-o-chlorophenyl-5-chloroindole is obtained as crystals melting at 96° to 98° C.

reactant | 1-methyl-2-aminomethyl-3-o-chlorophenyl-5-chloroindole hydrochloride | Cl.CN1C(=C(C2=CC(=CC=C12)Cl)C1=C(C=CC=C1)Cl)CN
reactant | N-carbobenzoxy-glycine | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
product | 1-methyl-2-(N-carbobenzoxy-glycylaminomethyl)-3-o-chlorophenyl-5-chloroindole | CN1C(=C(C2=CC(=CC=C12)Cl)C1=C(C=CC=C1)Cl)CNC(CNC(=O)OCC1=CC=CC=C1)=O | C26H23Cl2N3O3
